US06927221B2
3-Mesityl-2-methylaniline
Palladium-carbon (10%, 1.1 g) was added to a solution of 1-mesityl-2-methyl-3-nitrobenzene (11.0 g, 43 mmol) in ethanol (220 mL) at room temperature, followed by stirring for one day in hydrogen atmosphere. The mixture was filtered through Celite and evaporated. The residue was purified by silica gel column chromatography (10% ethyl acetate/hexane), to give the title compound (8.2 g) as white crystals.

reactant | 1-mesityl-2-methyl-3-nitrobenzene | 43 mmol, 11.0 g | C1(=C(C(=CC(=C1)C)C)C1=C(C(=CC=C1)[N+](=O)[O-])C)C | C16H17NO2
solvent | ethanol | 220 mL | C(C)O | C2H6O
solvent | hydrogen | [H][H] | H2
catalyst | Palladium-carbon | 1.1 g | [C].[Pd]
product | 3-Mesityl-2-methylaniline | 8.2 g | C1(=C(C(=CC(=C1)C)C)C=1C(=C(N)C=CC1)C)C | C16H19N
